US04820507
44.57 g of dimethyl ethanolamine (0.5 mole) were diluted with 420.65 g of water, followed by the addition of 19.38 g of an aqueous 41.3% hydrofluoric acid solution (0.4 mole). A clear solution was formed. After the solution had been heated to 95° C., 94.0 g of 1,2-epoxydodecane (0.5 mole) and 3.5 g of a 75% dispersion of distearyl dimethyl ammonium chloride (as phase transfer catalyst) were added, after which the reaction mixture was stirred for 6 hours at 95° C. Finally, another 4.84 g of the 41.3% hydrofluoric acid solution (0.1 mole) were added. A clear yellow solution of the 2-hydroxydodecyl-2-hydroxyethyl dimethyl ammonium fluoride containing 73.1 m vals of quaternary ammonium compound (QUAT) per 100 g of the aqueous solution was obtained.

reactant | dimethyl ethanolamine | 0.5 mole, 44.57 g | CN(CCO)C | C4H11NO
reactant | hydrofluoric acid | 0.4 mole | F | FH
reactant | 1,2-epoxydodecane | 0.5 mole, 94.0 g | O1CC1CCCCCCCCCC | C12H24O
reactant | hydrofluoric acid | 0.1 mole | F | FH
solvent | water | 420.65 g | O | H2O
catalyst | distearyl dimethyl ammonium chloride | [Cl-].C(CCCCCCCCCCCCCCCCC)[N+](C)(C)CCCCCCCCCCCCCCCCCC
product | 2-hydroxydodecyl-2-hydroxyethyl dimethyl ammonium fluoride | [F-].OC(C[N+](C)(C)CCO)CCCCCCCCCC | InChI=1S/C16H36NO2.FH/c1-4-5-6-7-8-9-10-11-12-16(19)15-17(2,3)13-14-18;/h16,18-19H,4-15H2,1-3H3;1H/q+1;/p-1
